US04490533
A. 6-Dimethylaminomethyl-2-[(2-phthalimidoethyl)thiomethyl]pyridine
To a solution of N-(2-mercaptoethyl) phthalimide (28.8 g, 0.139 mol) in dry methanol (250 ml) is added sodium methoxide (7.5 g, 0.139 mol) with cooling and stirring. This mercaptide solution is added to 2,6-bis(chloromethyl)pyridine (24.5 g, 0.139 mol) in dry methanol (250 ml). The mixture is stirred at room temperature for 21/2 hours and is filtered to remove the precipitated solid. Then dimethylamine (6.9 g, 0.153 mol) in cold methanol (150 ml) is added to the filtrate and the mixture is stirred at room temperature overnight. The solvent is removed in vacuo leaving an amber gum. The gum is taken up in methylene chloride (200 ml) and is washed with aqueous sodium bicarbonate and with water. The methylene chloride layer is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. This gives 24.3 g of 6-dimethylaminomethyl-2-[(2-phthalimidoethyl)thiomethyl]pyridine as a crude amber gum.

reactant | N-(2-mercaptoethyl) phthalimide | 0.139 mol, 28.8 g | SCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO2S
reactant | sodium methoxide | 0.139 mol, 7.5 g | C[O-].[Na+]
reactant | 2,6-bis(chloromethyl)pyridine | 0.139 mol, 24.5 g | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
reactant | dimethylamine | 0.153 mol, 6.9 g | CNC | C2H7N
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-Dimethylaminomethyl-2-[(2-phthalimidoethyl)thiomethyl]pyridine | CN(C)CC1=CC=CC(=N1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H21N3O2S
